US07851484B2
To a solution of 2,3-diamino-5-bromopyridine (10.0 g, 53.2 mmol, 1.0 equiv) and 3-pentanone (6.18 mL, 58.5 mmol, 1.1 equiv) in dichloroethane (150 mL) was added AcOH (3.0 mL, 53.2 mmol, 1.0 equiv) followed by NaHB(OAc)3 (16.9 g, 79.8 mmol, 1.5 equiv), added as a solid in several portions over ˜5 min. The reaction was allowed to stir overnight. The reaction mixture was then washed with satd. aq. NaHCO3 and brine, and the resulting organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification by silica gel MPLC (10%-40% EtOAc/Hexanes) provided 5-bromo-N3-(pentan-3-yl)pyridine-2,3-diamine as an off white solid (2.0 g, 14%). m/z=240.1 [M+H]+

reactant | 2,3-diamino-5-bromopyridine | 53.2 mmol, 10.0 g, 1.0 equiv | NC1=NC=C(C=C1N)Br | C5H6BrN3
reactant | 3-pentanone | 58.5 mmol, 6.18 mL, 1.1 equiv | CCC(CC)=O | C5H10O
reactant | AcOH | 53.2 mmol, 3.0 mL, 1.0 equiv | CC(=O)O | C2H4O2
solvent | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
product | 5-bromo-N3-(pentan-3-yl)pyridine-2,3-diamine | BrC=1C=C(C(=NC1)N)NC(CC)CC | C10H16BrN3
